US07115750B1
1,2-Dihydroxy-4-nitrobenzene (5.00 g, 0.032 mol), potassium carbonate (9.67 g, 0.07 mol) and epibromohydrin (5.30 g. 0.039 mol) were dissolved in dimethylformamide (100 ml), which was stirred at 100° C. for 1 hour. Water was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water, and concentrated. The residue was purified by alumina column chromatography (development solvent: ethyl acetate). The eluent was washed with a mixed solution of ethyl acetate-n-hexane (1:1), to give (7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methanol (3.31 g) as a white powder.

reactant | 1,2-Dihydroxy-4-nitrobenzene | 0.032 mol, 5.00 g | OC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H5NO4
reactant | potassium carbonate | 0.07 mol, 9.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | epibromohydrin | 0.039 mol, 5.30 g | C(Br)C1CO1 | C3H5BrO
reactant | Water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl)methanol | 3.31 g | [N+](=O)([O-])C=1C=CC2=C(OC(CO2)CO)C1 | C9H9NO5
